US06133258
The reaction procedure of Example 11 was followed except that 901 mg (3.0 mmol) of 2-(4-nitroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one, 30 mg of lithium hydride and 511 mg of methyl iodide were used. The resulting residue was then purified through silica gel chromatography (eluant: chloroform) to obtain 756 mg of 2,3-dihydro-3-methyl-2-[(4-nitrophenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one (80%, recrystallized from a mixture of ether and ethanol).

reactant | 2-(4-nitroanilino)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 3.0 mmol, 901 mg | [N+](=O)([O-])C1=CC=C(NC=2SC3=C(C(N2)=O)C=CC=N3)C=C1 | C13H8N4O3S
reactant | lithium hydride | 30 mg | [H-].[Li+]
reactant | methyl iodide | 511 mg | CI | CH3I
product | 2,3-dihydro-3-methyl-2-[(4-nitrophenyl)imino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 756 mg | CN1C(SC2=C(C1=O)C=CC=N2)=NC2=CC=C(C=C2)[N+](=O)[O-] | C14H10N4O3S
